### PR TITLE
[Merged by Bors] - refactor(Computability.Encoding): unbundle Γ and remove FinEncoding

### PR DESCRIPTION
**Pull request by AlexeyMilovanov**
This PR unbundles the alphabet `Γ` from the `Encoding` structure and completely removes `FinEncoding`.

`Encoding`: The alphabet `Γ` is now an explicit parameter: `structure Encoding (α : Type u) (Γ : Type v)`.
`FinEncoding`: Removed. Finiteness is now handled via standard typeclasses (e.g., `[Fintype Γ] (e : Encoding α Γ)`).
Combinators: Functions like `finEncodingPair` are simplified to `encodingPair`, dropping the `fin` prefix and `[Fintype]` requirements where no longer needed.
Downstream: Mechanically updated `Mathlib.Computability` and `Mathlib.ModelTheory` to pass the explicit `Γ` and use `[Fintype Γ]` where `FinEncoding` was previously required.

### CODE REVIEW

File: Mathlib/Computability/Encoding.lean [hunk 1]
```diff
@@ -192,53 +169,41 @@ def decodeBool : List Bool → Bool
...
+def encodingList (α : Type) : Encoding (List α) α where
   encode := id
   decode := Option.some
   decode_encode _ := rfl
-  ΓFin := inferInstance
 
 /--
-Given `FinEncoding` of `α` and `β`,
-constructs a `FinEncoding` of `α × β` by concatenating the encodings,
+Given `Encoding` of `α` and `β`,
```
Comment (vihdzp) [inline Mathlib/Computability/Encoding.lean]:
```suggestion
Given an `Encoding` of `α` and `β`,
```

File: Mathlib/ModelTheory/Encoding.lean [hunk 2]
```diff
@@ -276,8 +275,8 @@ theorem listDecode_encode_list (l : List (Σ n, L.BoundedFormula α n)) :
 
 /-- An encoding of bounded formulas as lists. -/
 @[simps]
-protected def encoding : Encoding (Σ n, L.BoundedFormula α n) where
-  Γ := (Σ k, L.Term (α ⊕ Fin k)) ⊕ ((Σ n, L.Relations n) ⊕ ℕ)
+protected def encoding : Encoding (Σ n, L.BoundedFormula α n)
+((Σ k, L.Term (α ⊕ Fin k)) ⊕ ((Σ n, L.Relations n) ⊕ ℕ)) where
```
Comment (vihdzp) [inline Mathlib/ModelTheory/Encoding.lean]:
```suggestion
    ((Σ k, L.Term (α ⊕ Fin k)) ⊕ ((Σ n, L.Relations n) ⊕ ℕ)) where
```

File: Mathlib/ModelTheory/Encoding.lean [hunk 3]
```diff
@@ -293,7 +292,7 @@ theorem listEncode_sigma_injective :
 theorem card_le : #(Σ n, L.BoundedFormula α n) ≤
     max ℵ₀ (Cardinal.lift.{max u v} #α + Cardinal.lift.{u'} L.card) := by
   refine lift_le.1 (BoundedFormula.encoding.card_le_card_list.trans ?_)
-  rw [encoding_Γ, mk_list_eq_max_mk_aleph0, lift_max, lift_aleph0, lift_max, lift_aleph0,
+  rw [mk_list_eq_max_mk_aleph0, lift_max, lift_aleph0, lift_max, lift_aleph0,
     max_le_iff]
```
Comment (vihdzp) [inline Mathlib/ModelTheory/Encoding.lean]:
```suggestion
  rw [mk_list_eq_max_mk_aleph0, lift_max, lift_aleph0, lift_max, lift_aleph0, max_le_iff]
```

**Review by vihdzp — COMMENTED** [review]
Seems reasonable to me.

**Comment by dagurtomas** [comment]
You need to deprecate everything that you are removing. In the deprecation of `FinEncoding`, indicate in the comment what should be used instead

**Comment by AlexeyMilovanov** [comment]
Thank you, @dagurtomas!

I have added deprecated aliases for FinEncoding and all other removed declarations.

-awaiting-author

**Review by vihdzp — APPROVED** [review]
This looks alright to me. I agree that it doesn't make much sense to make two structures that differ only by typeclass assumptions.

@dagurtomas

**Comment by dagurtomas** [comment]
maintainer merge

File: Mathlib/Computability/Encoding.lean [hunk 4]
```diff
@@ -14,33 +14,30 @@ public import Mathlib.Tactic.DeriveFintype
...
-- `unaryFinEncodingNat` : a unary encoding of `ℕ`
-- `finEncodingBoolBool` : an encoding of `Bool`.
-- `finEncodingList`     : an encoding of `List α` in the alphabet `α`.
-- `finEncodingPair`     : an encoding of `α × β` from encodings of `α` and `β`.
+- `encodingNatBool`  : a binary encoding of `ℕ` in a simple alphabet.
+- `encodingNatΓ'`    : a binary encoding of `ℕ` in the alphabet used for TM's.
+- `unaryEncodingNat` : a unary encoding of `ℕ`
+- `encodingBoolBool` : an encoding of `Bool`.
+- `encodingList`     : an encoding of `List α` in the alphabet `α`.
+- `encodingPair`     : an encoding of `α × β` from encodings of `α` and `β`.
```
Comment (faenuccio) [inline Mathlib/Computability/Encoding.lean]: Shouldn't this be called `encodingProd` according to the general convention in the library?

Comment (AlexeyMilovanov) [reply Mathlib/Computability/Encoding.lean]: Done, thank you

**Comment by AlexeyMilovanov** [comment]
-awaiting-author

**Comment by faenuccio** [comment]
thanks!

bors r+
